US04116956
To a mixture of 3.2 parts of 2-hydrazino-5-phenyl-7-trifluoromethyl-3H-1,4-benzodiazepine, prepared in Example 4, 8.5 parts of ethyl orthoformate and 50 parts by volume of chloroform, is added dropwise 7.6 parts of p-toluenesulfonic acid at a temperature below 10° C. The mixture is stirred at room temperature for 2.5 hours. After completion of the reaction, the reaction mixture is neutralized with a saturated aqueous solution of sodium bicarbonate. The chloroform layer is separated, washed with water and dried over sodium sulfate. Evaporation of the solvent yields 6-phenyl-8-trifluoromethyl-4H-s-triazolo [4,3-a] [1,4] benzodiazepine as crystals. The crystals are dissolved in ethanol and the insoluble material is removed by filtration. The filtrate is concentrated and recrystallized from ethyl acetate to give colorless flakes. Melting point: 258° C to 260° C.

reactant | 2-hydrazino-5-phenyl-7-trifluoromethyl-3H-1,4-benzodiazepine | N(N)C1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)C(F)(F)F | C16H13F3N4
reactant | ethyl orthoformate | C(OCC)([O-])[O-]
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-phenyl-8-trifluoromethyl-4H-s-triazolo [4,3-a] [1,4] benzodiazepine | C1(=CC=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)C(F)(F)F)C=NN2 | C17H11F3N4
